US07709503B2
Intermediate 96: Methyl 2-chloro-6-(ethylthio)pyrimidine-4-carboxylate
A solution of ethanethiol (0.30 g, 4.8 mmol) in THF (1 ml) was added dropwise to a solution of methyl 2,6-dichloropyrimidine-4-carboxylate (1 g, 4.8 mmol), THF (8 ml) and TEA (0.49 g, 4.8 mmol) at 0° C. under nitrogen. The mixture was stirred for 2 h and slowly warmed to room temperature. The mixture was diluted with EtOAc (50 ml) and water (10 ml). The organic layer was separated, dried over sodium sulfate, filtered and concentrated in vacuo to afford the title compound (1.1 g).

reactant | ethanethiol | 4.8 mmol, 0.30 g | C(C)S | C2H6S
reactant | methyl 2,6-dichloropyrimidine-4-carboxylate | 4.8 mmol, 1 g | ClC1=NC(=CC(=N1)C(=O)OC)Cl | C6H4Cl2N2O2
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | EtOAc | 50 ml | CCOC(=O)C | C4H8O2
solvent | water | 10 ml | O | H2O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | Methyl 2-chloro-6-(ethylthio)pyrimidine-4-carboxylate | 1.1 g | ClC1=NC(=CC(=N1)C(=O)OC)SCC | C8H9ClN2O2S
